US09303033B2
In a round bottom flask equipped with a magnetic stirbar, 2-(methylthio)pyrazolo[1,5-a][1,3,5]triazin-4(3H)-one (1.0 eq, 10.43 g, 57.24 mmol) was suspended in acetonitrile (100 ml). Phosphorus oxychloride (4.0 eq, 21 ml, 229.4 mmol) and triethylamine (1.05 eq, 8.4 ml, 60.27 mmol) were added and the mixture stirred at reflux for 3.5 hours, at which time LCMS indicated completion of the reaction. The mixture was cooled down and slowly poured into crushed ice (final total volume of about 600 ml). The solid was filtered, washed with water and dried in a vacuum oven to afford 4-chloro-2-(methylthio)pyrazolo[1,5-a][1,3,5]triazine as a tan solid (8.15 g, 71% yield). LCMS (ES): >97% pure, m/z 201 [M+H]+.

reactant | 2-(methylthio)pyrazolo[1,5-a][1,3,5]triazin-4(3H)-one | 57.24 mmol, 10.43 g, 1.0 eq | CSC1=NC=2N(C(N1)=O)N=CC2 | C6H6N4OS
reactant | Phosphorus oxychloride | 229.4 mmol, 21 ml, 4.0 eq | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | triethylamine | 60.27 mmol, 8.4 ml, 1.05 eq | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 4-chloro-2-(methylthio)pyrazolo[1,5-a][1,3,5]triazine | 8.15 g, 71% yield | ClC1=NC(=NC=2N1N=CC2)SC | C6H5ClN4S
